US04983723
To 20 ml of an anhydrous chloroform solution containing 1.0 g of 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]but-3-en-2-one was added 616 mg of m-chloroperbenzoic acid under ice-cooling, followed by stirring at the same temperature for 8 hours. After completion of the reaction, the reaction mixture was washed several times with a saturated aqueous solution of sodium hydrogen carbonate. The organic layer was washed with a saturated aqueous solution of sodium chloride and then, with water, and dried over anhydrous magnesium sulfate. The solvent, etc. were removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 644 mg (yield: 70%) of 4-[4-(t-butyldimethylsilyl)oxy-1,2-epoxy-2,6,6-trimethylcyclohexyl]but-3-en-2-one.

reactant | 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]but-3-en-2-one | 1.0 g | [Si](C)(C)(C(C)(C)C)OC1CC(=C(C(C1)(C)C)C=CC(C)=O)C | C19H34O2Si
reactant | m-chloroperbenzoic acid | 616 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(t-butyldimethylsilyl)oxy-1,2-epoxy-2,6,6-trimethylcyclohexyl]but-3-en-2-one | 644 mg, yield: 70% | [Si](C)(C)(C(C)(C)C)OC1CC2(C(C(C1)(C)C)(O2)C=CC(C)=O)C | C19H34O3Si
